US09079889B2
Synthesis of 5-amino-N-(4-((1R,3S)-3-aminocyclohexyl)pyridin-3-yl)-3,3′-difluoro-2,4′-bipyridine-6-carboxamide
A solution of 3-amino-6-bromo-N-(4-((1R,3S)-3-(1,3-dioxoisoindolin-2-yl)cyclohexyl)pyridin-3-yl)-5-fluoropicolinamide (1.0 equiv), 3-fluoropyridin-4-yl-boronic acid (3.0 equiv.), tetrakistriphenylphosphine (0.2 equiv.) and triethylamine (3.0 equiv.) in 1:1 EtOH/toluene (0.1 M) was heated at 120° C. with microwave irradiation for 1200 seconds. Upon cooling, removal of the volatiles in vacuo, the Suzuki product was directly purified by reverse phase HPLC. The product fraction was lyophilized and the resulting phthalimide group was deprotected as described in Method 9 yielding, after RP HPLC purification and lyophilization, 5-amino-N-(4-((1R,3S)-3-aminocyclohexyl)-pyridin-3-yl)-3,3′-difluoro-2,4′-bipyridine-6-carboxamide as the TFA salt. LCMS (m/z): 425.1 (MH+); LC Rt=2.08 min.

reactant | 3-amino-6-bromo-N-(4-((1R,3S)-3-(1,3-dioxoisoindolin-2-yl)cyclohexyl)pyridin-3-yl)-5-fluoropicolinamide | 1.0 equiv | NC=1C(=NC(=C(C1)F)Br)C(=O)NC=1C=NC=CC1[C@H]1C[C@H](CCC1)N1C(C2=CC=CC=C2C1=O)=O | C25H21BrFN5O3
reactant | 3-fluoropyridin-4-yl-boronic acid | 3.0 equiv. | FC=1C=NC=CC1B(O)O | C5H5BFNO2
reactant | triethylamine | 3.0 equiv. | C(C)N(CC)CC | C6H15N
solvent | EtOH toluene | 0.1 M | CCO.C1(=CC=CC=C1)C
product | 5-amino-N-(4-((1R,3S)-3-aminocyclohexyl)pyridin-3-yl)-3,3′-difluoro-2,4′-bipyridine-6-carboxamide | NC=1C=C(C(=NC1C(=O)NC=1C=NC=CC1[C@H]1C[C@H](CCC1)N)C1=C(C=NC=C1)F)F | C22H22F2N6O
